US06495692B1
Preparation of 7-Chlorolepidine
To a mixture containing 3-chloroaniline (1.59 g), ferric chloride hexahydrate (5.4 g), zinc chloride (0.2 g), ethanol (20 ml of 95% aqueous solution) preheated to 60° C. was added 1,3,3-trimethoxybutane (1.48 g). The resulting mixture was refluxed for two hours and allowed to stand overnight. The volatile materials were then removed in vacuo and the residue rendered basic with 10% aqueous sodium hydroxide. The resulting mixture was partitioned between water and diethyl ether (3 times). The combined ether layer was dried over magnesium sulfate. Rotary evaporation of the ether solution gave a dark liquid. The liquid was added to a silica gel column and eluted with hexane/ethyl acetate (3:1) to give the desired product as tan crystals.

reactant | 3-chloroaniline | 1.59 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 1,3,3-trimethoxybutane | 1.48 g | COCCC(C)(OC)OC | C7H16O3
catalyst | zinc chloride | 0.2 g | [Cl-].[Zn+2].[Cl-]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-Chlorolepidine | ClC1=CC=C2C(=CC=NC2=C1)C | C10H8ClN
